US08044063B2
4-chloro-2-amino-benzoic acid (10.0 g) was dissolved into 50 mL of formamide, the mixture was reacted under reflux for 5 h. A lot of solid was deposited, which was filtered and dried to obtain 1.5 g of 7-chloro-quinazolone.

reactant | 4-chloro-2-amino-benzoic acid | 10.0 g | ClC1=CC(=C(C(=O)O)C=C1)N | C7H6ClNO2
reactant | formamide | 50 mL | C(=O)N | CH3NO
product | 7-chloro-quinazolone | 1.5 g | ClC1=CC=C2C=NC(NC2=C1)=O | C8H5ClN2O
